US07547679B2
To a mixture of 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (10 g, 0.035 mol) in 1-methyl-2-pirolidone (70 mL) 2-(2-amino-ethoxy)-ethanol (18 mL, 0.18 mol, 5 eq.) was added, the reaction mixture was stirred at 110° C. for 24 hours. Then was diluted with water (200 mL) and CH2Cl2 (60 mL) and the pH was adjusted to 10. The aqueous layer was extracted with CH2Cl2 (5×50 mL) and then the pH was adjusted to 6.7. After 10 minutes first product precipitated. Filtrated off yielding 2.7 g of crude 7-chloro-1-cyclopropyl-6-[2-(2-hydroxy-ethoxy)-ethylamino]-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid. (according to LC-MS 100% pure Intermediate 6B) Over night second product precipitated. Filtrated off yielding 7.7 g of yellow product (according to LC-MS a mixture of Intermediate 6A and Intermediate 6B in a 1:1 ratio).

reactant | 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 0.035 mol, 10 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | water | 200 mL | O | H2O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 7-chloro-1-cyclopropyl-6-[2-(2-hydroxy-ethoxy)-ethylamino]-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 2.7 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)NCCOCCO | C17H19ClN2O5
